* /Users/camerontribe/Documents/Projects/HiFiAudio/LTSpice/All Filters.asc
C1 N007 0 1.78µ
C2 N008 0 11.7µ
L1 N007 N008 12.9mH
R1 N008 0 50
R2 N006 N007 50
V1 N006 0 AC 1
XU2 N008 N002 V+ V- N003 LT1037
C3 N020 N019 1.09µF
L2 N020 0 1.2mH
R5 N020 0 50
R6 N018 N019 50
V4 N018 0 AC 1
XU1 N020 N014 V+ V- N015 LT1037
L3 N019 0 7.8mH
C4 N032 N031 5.6µ
L4 N033 0 65.7m
R9 N033 0 50
R10 N030 N031 50
V7 N030 0 AC 1
XU3 N033 N026 V+ V- N027 LT1037
L5 N031 0 40m
C5 0 N031 380n
C6 0 N033 240n
L6 N032 N033 2.8m
C7 N010 0 530n
C8 N011 0 530n
L7 N010 N011 265m
R13 N011 0 500
R14 N009 N010 500
V10 N009 0 AC 1
R15 0 N004 1k
R16 N004 VbutterLP 1k
XU4 N011 N004 N005 N012 VbutterLP LT1037
V11 N005 0 10
V12 0 N012 10
C9 N023 N022 53n
L8 N023 0 27m
R17 N023 0 500
R18 N021 N022 500
V13 N021 0 AC 1
R19 0 N016 1k
R20 N016 VbutterHP 1k
XU5 N023 N016 N017 N024 VbutterHP LT1037
V14 N017 0 10
V15 0 N024 10
L9 N022 0 27m
C10 N036 N035 272n
L10 N037 0 136m
R21 N037 0 500
R22 N034 N035 500
V16 N034 0 AC 1
R23 0 N028 1k
R24 N028 VbutterBP 1k
XU6 N037 N028 N029 N038 VbutterBP LT1037
V17 N029 0 10
V18 0 N038 10
L11 N035 0 136m
C11 0 N035 114n
C12 0 N037 114n
L12 N036 N037 57m
XU7 0 N001 V+ V- VbesselLP LT1037
XU8 0 N013 V+ V- VbesselHP LT1037
V19 V+ 0 10
V20 0 V- 10
XU9 0 N025 V+ V- VbesselBP LT1037
R3 N001 N003 100k
R4 N013 N015 100k
R7 N025 N027 100k
R8 VbesselLP N001 1k
R11 VbesselHP N013 100k
R12 VbesselBP N025 100k
R25 N002 NC_01 100k
R26 N003 N002 100k
R27 N015 N014 100k
R28 N027 N026 100k
R29 N026 0 100k
R30 N014 0 100k
.ac dec 1000 1 100k
* .step param R 50 500 50
* Bessel Filter\nHigh Pass
* Besel Filter\nLow Pass
* Bessel Filter\nBand Pass
* .ac dec 1000 1 100k
* .step param R 50 500 50
* Butterworth Filter\nHigh Pass
* Butterworth Filter\nLow Pass
* Butterworth Filter\nBand Pass
* .step param mult list .1 .5 1.5
.lib LTC.lib
.backanno
.end
